US06025375
A methylene chloride solution (20 ml) of (-)-5(S)-(3-methoxybenzyl)-1-cyclopentenecarboxylic acid (1.99 g), thionyl chloride (2 ml) and N,N-dimethylformamide (2 drops) was stirred for 3 hours at room temperature. Removal of solvent at reduced pressure afforded the crude acid chloride as a brown oil. To a methylene chloride solution (20 ml) of the crude acid chloride and benzoin (1.97 g), pyridine (2 ml) was added at room temperature. The solution was stirred for 4 hours at the same temperature and washed with IN hydrochloric acid (×2) and brine. Drying (sodium sulfate) and removal of solvent afforded a yellow oil. An acetic acid solution (80 ml) of the yellow oil and ammonium acetate (14.98 g) was stirred for 7.5 hours at 130° C. and cooled to room temperature. Solvent was removed and the residue was dissolved in ethyl acetate. The solution was washed with water, saturated aqueous sodium hydrogen carbonate (×3), water, and brine. Drying (sodium sulfate) and removal of solvent at reduced pressure followed by flash chromatography on 100 g of silica afforded (+)-1-(4,5-diphenyloxazol-2-yl)-5(S)-(3-methoxybenzyl)cyclopentene as a pale yellow solid (2.69 g, 99.6% ee).

reactant | (-)-5(S)-(3-methoxybenzyl)-1-cyclopentenecarboxylic acid | 1.99 g | COC=1C=C(C[C@@H]2CCC=C2C(=O)O)C=CC1 | C14H16O3
reactant | thionyl chloride | 2 ml | S(=O)(Cl)Cl | Cl2OS
reactant | benzoin | 1.97 g | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | ammonium acetate | 14.98 g | C(C)(=O)[O-].[NH4+]
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | acetic acid | 80 ml | C(C)(=O)O | C2H4O2
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (+)-1-(4,5-diphenyloxazol-2-yl)-5(S)-(3-methoxybenzyl)cyclopentene | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C1=CCC[C@H]1CC1=CC(=CC=C1)OC | C28H25NO2
